US08431563B2
To a 100-mL round-bottomed flask was added ethyl 3-(2-methoxy-3-pyridinyl)alaninate (0.877 g, 3.91 mmol), N-α-t-Boc-glycine (0.753 g, 4.30 mmol, Aldrich, St. Louis, Mo.), HATU (1.784 g, 4.69 mmol, Aldrich, St. Louis, Mo.) and N,N-diisopropylethylamine (2.05 mL, 11.73 mmol, Aldrich, St. Louis, Mo.) in DMF (8 mL). The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with water (30 mL) and extracted with EtOAc (2×50 mL). The organic extract was washed with saturated NaCl (20 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as a light-yellow oil. The crude product was purified by silica gel chromatography, eluting with 60% EtOAc/hexanes to give ethyl N-(tert-butoxy carbonyl)glycyl-3-(2-methoxy-3-pyridinyl)alaninate (1.38 g) as a colorless oil.

reactant | ethyl 3-(2-methoxy-3-pyridinyl)alaninate | 3.91 mmol, 0.877 g | COC1=NC=CC=C1C[C@H](N)C(=O)OCC | C11H16N2O3
reactant | N-α-t-Boc-glycine | 4.30 mmol, 0.753 g | CC(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | HATU | 4.69 mmol, 1.784 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 11.73 mmol, 2.05 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | ethyl N-(tert-butoxy carbonyl)glycyl-3-(2-methoxy-3-pyridinyl)alaninate | 1.38 g | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](CC=1C(=NC=CC1)OC)C(=O)OCC | C18H27N3O6
